US05780483
Preparation of N-[2-[(3,5-Bistrifluoromethylphenyl)sulfonylamino]phenyl]-N'-(2-bromophenyl)urea
The title compound was prepared from [2-(3,5-bistrifluoromethylphenyl) sulfonylaminoaniline (591 mg, 1.5 mmol) and 2-bromophenylisocyanate (305 mg, 1.5 mmol) according to General Method B. The product was purified by flash chromatography on silica gel (ethyl acetate:hexane 30/70) (10 mg, 1%).EI-MS m/z 580 (M-H)-

reactant | 2-(3,5-bistrifluoromethylphenyl) sulfonylaminoaniline | 1.5 mmol, 591 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC1=C(N)C=CC=C1)(F)F | C14H10F6N2O2S
reactant | 2-bromophenylisocyanate | 1.5 mmol, 305 mg | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
product | N-[2-[(3,5-Bistrifluoromethylphenyl)sulfonylamino]phenyl]-N'-(2-bromophenyl)urea | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC1=C(C=CC=C1)NC(=O)NC1=C(C=CC=C1)Br)(F)F | C21H14BrF6N3O3S
